US04550981
The crude 2-chloro-4-[[p-(p-hexylphenyl)benzoyl]oxy]benzoyl chloride obtained was dissolved in 125 ml of benzene and then added dropwise to a solution of 4.0 g of 3-chloro-4-cyanophenol in 100 ml of pyridine. The mixture was stirred at a bath temperature of 65° C. overnight, then poured into ice-cold, dilute hydrochloric acid and extracted with diethyl ether. The extract was washed several times with 3N hydrochloric acid, then washed neutral with water, dried and evaporated. The crude 4'-hexyl-4-biphenylcarboxylic acid 3-chloro-4-[(3-chloro-4-cyanophenoxy)carbonyl]phenyl ester obtained was chromatographed on silica gel with toluene/dichloromethane (1:1). The fractions (8.2 g) which were practically pure according to thin-layer chromatography were recrystallized once from ethyl acetate and once from ethyl acetate and a small amount of hexane; m.p. (C-N) 95° C., cl.p. (N-I) 235° C.

reactant | 2-chloro-4-[[p-(p-hexylphenyl)benzoyl]oxy]benzoyl chloride | ClC1=C(C(=O)Cl)C=CC(=C1)OC(C1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCC)=O | C26H24Cl2O3
reactant | 3-chloro-4-cyanophenol | 4.0 g | ClC=1C=C(C=CC1C#N)O | C7H4ClNO
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 125 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4'-hexyl-4-biphenylcarboxylic acid 3-chloro-4-[(3-chloro-4-cyanophenoxy)carbonyl]phenyl ester | ClC=1C=C(C=CC1C(=O)OC1=CC(=C(C=C1)C#N)Cl)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCC | C33H27Cl2NO4
